US06831193B2
4-(3-Formylphenoxy)benzonitrile
4-Fluorobenzonitrile and 3-hydroxybenzaldehyde were processed as described in Example 48A to provide the title compound.

reactant | 4-Fluorobenzonitrile | FC1=CC=C(C#N)C=C1 | C7H4FN
reactant | 3-hydroxybenzaldehyde | OC=1C=C(C=O)C=CC1 | C7H6O2
product | 4-(3-Formylphenoxy)benzonitrile | C(=O)C=1C=C(OC2=CC=C(C#N)C=C2)C=CC1 | C14H9NO2
